US06509329B1
Synthesis of Ethyl 3-[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]propionate
Ethyl 3-[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]propenoate (579 mg) was dissolved in methanol (20 mL), 10% palladium on carbon (60 mg) was added to the solution, and the mixture was stirred at room temperature for 6 hours under a hydrogen atmosphere. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to obtain the title compound.

reactant | Ethyl 3-[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]propenoate | 579 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)C=CC(=O)OCC | C19H21NO5
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | Ethyl 3-[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]propionate | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CCC(=O)OCC | C19H23NO5
